US08138181B2
Step 1C: Preparation of 2-(7-ethylimidazo[1,2-a]pyridin-3-yl)quinolin-8-ol:
A suspension of 8-(benzyloxy)-2-(7-ethylimidazo[1,2-a]pyridin-3-yl)quinoline (3.06 g, 8.06 mmol), Pearlman's catalyst (20% wt Pd, 283 mg) and ammonium formate (5.08 g, 80.6 mmol) in MeOH (50 ml) was degassed under nitrogen and heated at 80° C. for three hours, followed by stirring at ambient temperature overnight. The reaction mixture was poured into excess water and extracted with CH2Cl2 and EtOAc. The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel chromatography (eluting with MeOH/CH2Cl2) to afford a mixture of starting material and desired product. This mixture was resubmitted to the original reaction conditions and refluxed for four hours. The reaction mixture was poured into excess water and extracted with CH2Cl2 and EtOAc. The combined organic extracts were dried over Na2SO4, filtered and concentrated to afford the title compound (768 mg, 33% yield) as a solid. MS APCI (+) m/z 290.3 (M+1) detected.

reactant | 8-(benzyloxy)-2-(7-ethylimidazo[1,2-a]pyridin-3-yl)quinoline | 8.06 mmol, 3.06 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)CC | C25H21N3O
reactant | ammonium formate | 80.6 mmol, 5.08 g | C(=O)[O-].[NH4+]
catalyst | Pearlman's catalyst | 283 mg | [OH-].[OH-].[Pd+2]
solvent | MeOH | 50 ml | CO | CH4O
product | 2-(7-ethylimidazo[1,2-a]pyridin-3-yl)quinolin-8-ol | C(C)C1=CC=2N(C=C1)C(=CN2)C2=NC1=C(C=CC=C1C=C2)O | C18H15N3O
